US07842688B2
a) Benzyl 3-[4-(2-acetylaminoethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.220 g of benzyl 3-[4-(2-aminoethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate in 7.5 ml of dichloromethane is cooled to 0° C. with stirring and admixed with 0.042 ml of triethylamine. 0.023 ml of acetyl chloride in 0.50 ml of dichloromethane are slowly added dropwise. Subsequently, the mixture is stirred at 0° C. over 1 hour. The reaction mixture is poured onto ice-water (20 ml) and extracted with tert-butyl methyl ether (2×20 ml). The organic phases are washed with brine (20 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a white foam from the residue by means of flash chromatography (SiO2 60F). Rf=0.75 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=5.46.

reactant | benzyl 3-[4-(2-aminoethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | 0.220 g | NCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOC2=C(C=CC(=C2)F)F)C(=O)OCC2=CC=CC=C2 | C39H43F2N3O6
reactant | triethylamine | 0.042 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.023 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.50 ml | ClCCl | CH2Cl2
product | Benzyl 3-[4-(2-acetylaminoethyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOC2=C(C=CC(=C2)F)F)C(=O)OCC2=CC=CC=C2 | C41H45F2N3O7
